US04006136
1-(Dimethylamino)-1-octen-3-one
A solution of dimethylamine (560 ml, 40% aqueous) is cooled to 5° C. 1-Chloro-1-octen-3-one (192 g) is added and the mixture stirred at room temperature for 20 min. The solution is then saturated with potassium carbonate and extracted with ether. The organic layer is washed 3 × with sat. sodium chloride solution, dried over sodium sulfate, concentrated and distilled to give the title compound, b.p. 94°-96° C/0.2mm.

reactant | 1-Chloro-1-octen-3-one | 192 g | ClC=CC(CCCCC)=O | C8H13ClO
reactant | dimethylamine | 560 ml | CNC | C2H7N
product | 1-(Dimethylamino)-1-octen-3-one | CN(C=CC(CCCCC)=O)C | C10H19NO
